US06242635B1
Synthesis of methyl 2-hydroxymethyl-3-phenylpropionate [formula (VI), R1=Ph, R4=Me]
Methyl 2-benzylidene-3-hydroxypropionate (847.2 mg, 4.408 mmols) was dissolved in 8 ml of methanol, and 21.7 mg (water content 2.7%) of 5% palladium-carbon were added thereto to conduct catalytic reduction in a hydrogen atmosphere for 140 minutes. After the completion of the reaction, the reaction solution was filtered with Celite to remove the palladium-carbon. The resulting solution was concentrated under reduced pressure to obtain 849.2 mg of a crude product of the above title compound.

reactant | Methyl 2-benzylidene-3-hydroxypropionate | 4.408 mmols, 847.2 mg | C(C1=CC=CC=C1)=C(C(=O)OC)CO | C11H12O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 8 ml | CO | CH4O
catalyst | palladium-carbon | 21.7 mg | [C].[Pd]
product | methyl 2-hydroxymethyl-3-phenylpropionate | 849.2 mg | OCC(C(=O)OC)CC1=CC=CC=C1 | C11H14O3
